US05508446
14.8 g (0.1 mol) of phthalic anhydride and 9.9 g (0.05 mol) of potassium tert-butyl malonate are added to 200 ml of toluene, and the reaction mixture is heated under reflux for 6 hours. After terminating the reaction, 100 ml of water is added, and an organic layer is separated out. The organic layer is washed with 100 ml of 5%-aqueous ammonium bicarbonate solution, and toluene is distilled off under a reduced pressure. The residue thus obtained is purified by column chromatography, to give 6.4 g (0.026 mol) of tert-butyl (Z)-3-phthalidylideneacetate. The yield is 52.0%.

reactant | phthalic anhydride | 0.1 mol, 14.8 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | potassium tert-butyl malonate | 0.05 mol, 9.9 g | C(CC(=O)[O-])(=O)OC(C)(C)C.[K+]
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | tert-butyl (Z)-3-phthalidylideneacetate | 0.026 mol, 6.4 g, yield is 52.0% | C1(=O)O\C(\C2=CC=CC=C12)=C/C(=O)OC(C)(C)C | C14H14O4
